US05668143
4-[Benzenesulfonylimino]-4H-chromene-2-carboxylic acid, methyl ester
Combine chromone-2-carboxylic acid methyl ester (0.341 g, 1.66 mmol) and benzenesulfonyl isocyanate (0.365 g, 1.88 mmol) in acetonitrile (5.0 mL) and reflux. After 24 hours, quench the reaction with methanol (1 mL). Concentrate in vacuo and triturate with hexane. Filter to obtain a paste. Recrystallize the paste from methanol to obtain a solid. Recrystallize from methanol to give the title compound as a solid: mp; 144°-146° C.

reactant | chromone-2-carboxylic acid methyl ester | 1.66 mmol, 0.341 g | COC(=O)C=1OC2=CC=CC=C2C(C1)=O | C11H8O4
reactant | benzenesulfonyl isocyanate | 1.88 mmol, 0.365 g | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | 4-[Benzenesulfonylimino]-4H-chromene-2-carboxylic acid, methyl ester | C1(=CC=CC=C1)S(=O)(=O)N=C1C=C(OC2=CC=CC=C12)C(=O)OC | C17H13NO5S
